US05756743
4-Acetamido-N-ethoxycarbonylpiperdine
A solution of 4-acetamidopiperidine (20.7 g), sodium bicarbonate (10.6 g) and water (300 ml) was cooled to 0° C., and 17.7 g of ethyl chloroformate was added dropwise, with stirring. Upon completion of the addition, the reaction mixture was allowed to warm to ambient temperature and was diluted with water and ethyl acetate. The layers were separated, and the organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to give 32.2 g (100%) of product.

reactant | 4-acetamidopiperidine | 20.7 g | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | sodium bicarbonate | 10.6 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 17.7 g | ClC(=O)OCC | C3H5ClO2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
product | 4-Acetamido-N-ethoxycarbonylpiperdine | 32.2 g, 100% | C(C)(=O)NC1CCN(CC1)C(=O)OCC | C10H18N2O3
